US04065620
7-(2'-carboxy-2'-phenylacetamido)-3-(2'-carboxyvinyl)-3-cephem-4-carboxylic acid
In a manner similar to the procedure described in Example 21, the titled acid compound was prepared from tert-butyl 7-(2'-tert-butoxycarbonyl-2'-phenylacetamido)-3-(2'-tert-butoxycarbonylvinyl)-3-cephem-4-carboxylate, which ester was prepared by acylating tert-butyl 7-amino-3-(2'-tert-butoxycarbonylvinyl)-3-cephem-4-carboxylate-p-toluene sulfonate as described in Example 6.

reactant | tert-butyl 7-(2'-tert-butoxycarbonyl-2'-phenylacetamido)-3-(2'-tert-butoxycarbonylvinyl)-3-cephem-4-carboxylate | C(C)(C)(C)OC(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C1=O)C1=CC=CC=C1 | C31H40N2O8S
reactant | tert-butyl 7-amino-3-(2'-tert-butoxycarbonylvinyl)-3-cephem-4-carboxylate p-toluene sulfonate | NC1[C@@H]2N(C(=C(CS2)C=CC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C1=O.CC=1C=CC(=CC1)S(=O)(=O)O
product | 7-(2'-carboxy-2'-phenylacetamido)-3-(2'-carboxyvinyl)-3-cephem-4-carboxylic acid | C(=O)(O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC(=O)O)C(=O)O)C1=O)C1=CC=CC=C1 | C19H16N2O8S
